US09060517B2
Step 2) Synthesis of 7,8-difluoro-3-iodoquinoline
185.5 g (1.12 mol) of 7,8-difluoroquinoline, 505.4 g (2.25 mol) of N-iodosuccinimide and 927 mL of acetic acid were placed in a 3 L eggplant flask containing a stirrer, followed by stirring the mixture for 30 hours at 90° C. After cooling the resultant, the precipitated crystals were filtered and dried.

reactant | 7,8-difluoroquinoline | 1.12 mol, 185.5 g | FC1=CC=C2C=CC=NC2=C1F | C9H5F2N
reactant | N-iodosuccinimide | 2.25 mol, 505.4 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | acetic acid | 927 mL | C(C)(=O)O | C2H4O2
product | 7,8-difluoro-3-iodoquinoline | FC1=CC=C2C=C(C=NC2=C1F)I | C9H4F2IN
